US04614801
2-(4-methoxyphenyl)-3-indolizine carboxaldehyde
A slurry of 20 g of 2-(4-methoxy phenyl) indolizine in 35 ml of DMF was added to a solution of 10 ml of phosphorus oxychloride in 30 ml of DMF at 10°-20° C. After the reaction solution was stirred at 40° for 40 min., it was added to 200 g of ice. 120 g of 25 percent sodium hydroxide solution was added and the resulting mixture was heated to 55° C., cooled, and filtered. The air-dried product weighed 23 g.

reactant | 2-(4-methoxy phenyl) indolizine | 20 g | COC1=CC=C(C=C1)C=1C=C2C=CC=CN2C1 | C15H13NO
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 120 g | [OH-].[Na+]
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(4-methoxyphenyl)-3-indolizine carboxaldehyde | COC1=CC=C(C=C1)C=1C=C2C=CC=CN2C1C=O | C16H13NO2
